US04749407
Sodium hydroxide (0.60 g, 15 mmol) was dissolved in 10 ml of water and 0.66 g of propargylamine (12 mmol) was added thereto. Under ice-cooling, 1.91 g of 3-methylbenzenesulfonyl chloride (10 mmol) was added dropwise to the solution. The reaction temperature was raised again to room temperature and the mixture was stirred for 3 hours. The reaction mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and concentrated to obtain N-propargyl-3-methylbenzenesulfonamide (2.17 g). NMR spectrum of this product was as follows.

reactant | Sodium hydroxide | 15 mmol, 0.60 g | [OH-].[Na+]
reactant | propargylamine | 12 mmol, 0.66 g | C(C#C)N | C3H5N
reactant | 3-methylbenzenesulfonyl chloride | 10 mmol, 1.91 g | CC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO2S
solvent | water | 10 ml | O | H2O
product | N-propargyl-3-methylbenzenesulfonamide | 2.17 g | C(C#C)NS(=O)(=O)C1=CC(=CC=C1)C | C10H11NO2S
